US07504508B2
Ethyl 5-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)pentanoate (0.135 g, 0.25 mmol) was hydrolyzed to the acid by dissolving in 6 ml methanol and potassium carbonate (0.2 g in 4 ml water) was added. The mixture was heated to 40° C. for 24 hours and methanol was removed in vacuo. The mixture was acidified to form a white precipitate. The solid was filtered to give the acid. To a solution of the acid in DMF (10 mL) at room temperature was added HATU (0.143 g, 0.375 mmol), DIEA (0.18 mL, 1 mmol), HOBt (0.057 g, 0.375 mmol), and ammonium chloride (0.027 g, 0.5 mmol) was added. The mixture was stirred for 18 hours and concentrated. The residue was dissolved in CH2Cl2 and washed with water. The organic layer was concentrated and purified by silica gel chromatography (87% CH2Cl2/13% methanol) to afford 5-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)pentanamide.

reactant | Ethyl 5-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)pentanoate | 0.25 mmol, 0.135 g | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCCCC(=O)OCC)C)C1=CC=C(C=C1)Cl | C32H35ClN2O4
reactant | potassium carbonate | 4 ml, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | HATU | 0.375 mmol, 0.143 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.375 mmol, 0.057 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium chloride | 0.5 mmol, 0.027 g | [Cl-].[NH4+]
solvent | methanol | 6 ml | CO | CH4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)pentanamide | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCCCC(=O)N)C)C1=CC=C(C=C1)Cl | C30H32ClN3O3
